US06927228B2
(d) N-[4′-(2,4-Dioxothiazolidin-5-ylidenemethyl)-biphenyl-3-yl]-N-methyl-2-phenylacetamide
In a manner similar to that of Example 37(e), by reacting 1 g (3.2 mmol) of 5-(3′-methylaminobiphenyl-4-ylmethylene)thiazolidine-2,4,dione with 470 μl (3.5 mmol) of phenylacetyl chloride, and after purification, 1.4 g (50%) of N-[4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-yl]-N-methyl-2-phenylacetamide are obtained.

reactant | 5-(3′-methylaminobiphenyl-4-ylmethylene)thiazolidine-2,4,dione | 3.2 mmol, 1 g | CNC=1C=C(C=CC1)C1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C17H14N2O2S
reactant | phenylacetyl chloride | 3.5 mmol, 470 μl | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | N-[4′-(2,4-Dioxothiazolidin-5-ylidenemethyl)-biphenyl-3-yl]-N-methyl-2-phenylacetamide | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)N(C(CC1=CC=CC=C1)=O)C | C25H20N2O3S
